### PR TITLE
[Merged by Bors] - feat(Data/Nat/Digits): `digits_head` and `ofDigits_mod_eq_head`

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mo271** [comment]
If `Nat.ofDigits_mod_eq_head` is not wanted, we can move it inside the proof of `Nat.digits_head`

**Comment by mo271** [comment]
https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/head.20and.20Nat.2EofDigits.2FNat.2Edigits

**Comment by adomani** [comment]
Adding two `rfl` lemmas leads to some simplification.  I am not sure if this is a good idea, though.
```lean
@[simp]
theorem List.head_empty : List.head! [] = 0 := rfl

@[simp]
theorem Nat.ofDigits_empty (b : ℕ) : ofDigits b [] % b = 0 := rfl

theorem Nat.ofDigits_mod_eq_head (b : ℕ) (l : List ℕ) : (Nat.ofDigits b l) % b = l.head! %b := by
  induction l <;> simp [Nat.ofDigits, Int.ModEq]

theorem Nat.digits_head {b n : ℕ} (h : b ≠ 1) : (Nat.digits b n).head! = n % b := by
  by_cases hb : 1 < b
  · rcases n with _ | n
    · simp
    · nth_rw 2 [← Nat.ofDigits_digits b n.succ]
      rw [Nat.ofDigits_mod_eq_head _ _]
      exact (Nat.mod_eq_of_lt (Nat.digits_lt_base hb <| List.head!_mem_self <|
          Nat.digits_ne_nil_iff_ne_zero.mpr <| Nat.succ_ne_zero n)).symm
  · rcases n with _ | _ <;> simp_all [show b = 0 by omega]
```

File: Mathlib/Data/Nat/Digits.lean [hunk 1]
```diff
@@ -637,6 +637,26 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
   ofDigits_modEq b k L
 #align nat.of_digits_mod Nat.ofDigits_mod
 
+theorem Nat.ofDigits_mod_eq_head (b : ℕ) (l : List ℕ) : (Nat.ofDigits b l) % b = l.head! %b := by
```
Comment (mo271) [inline Mathlib/Data/Nat/Digits.lean:640]:
```suggestion
theorem ofDigits_mod_eq_head (b : ℕ) (l : List ℕ) : (Nat.ofDigits b l) % b = l.head! %b := by
```

File: Mathlib/Data/Nat/Digits.lean [hunk 2]
```diff
@@ -637,6 +637,26 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
...
+  induction l
+  · rfl
+  · simp [Nat.ofDigits, Int.ModEq]
+
+theorem Nat.digits_head {b n : ℕ} (h : b ≠ 1) : (Nat.digits b n).head! = n % b := by
```
Comment (mo271) [inline Mathlib/Data/Nat/Digits.lean:645]:
```suggestion
theorem digits_head {b n : ℕ} (h : b ≠ 1) : (Nat.digits b n).head! = n % b := by
```

**Comment by alexjbest** [comment]
> Adding two `rfl` lemmas leads to some simplification. I am not sure if this is a good idea, though.
> 
> ```lean
> @[simp]
> theorem List.head_empty : List.head! [] = 0 := rfl
> 
> @[simp]
> theorem Nat.ofDigits_empty (b : ℕ) : ofDigits b [] % b = 0 := rfl
> 
> theorem Nat.ofDigits_mod_eq_head (b : ℕ) (l : List ℕ) : (Nat.ofDigits b l) % b = l.head! %b := by
>   induction l <;> simp [Nat.ofDigits, Int.ModEq]
> 
> theorem Nat.digits_head {b n : ℕ} (h : b ≠ 1) : (Nat.digits b n).head! = n % b := by
>   by_cases hb : 1 < b
>   · rcases n with _ | n
>     · simp
>     · nth_rw 2 [← Nat.ofDigits_digits b n.succ]
>       rw [Nat.ofDigits_mod_eq_head _ _]
>       exact (Nat.mod_eq_of_lt (Nat.digits_lt_base hb <| List.head!_mem_self <|
>           Nat.digits_ne_nil_iff_ne_zero.mpr <| Nat.succ_ne_zero n)).symm
>   · rcases n with _ | _ <;> simp_all [show b = 0 by omega]
> ```

Looks like a good idea to me!

**Comment by mo271** [comment]
Yes, also looks like a good idea to me!
I moved `List.head_empty` to a more appropriate place.

File: Mathlib/Data/List/Basic.lean [hunk 3]
```diff
@@ -771,6 +771,9 @@ theorem getLast?_append {l₁ l₂ : List α} {x : α} (h : x ∈ l₂.getLast?)
 
 /-! ### head(!?) and tail -/
 
+@[simp]
+theorem List.head_empty : List.head! [] = 0 := rfl
```
Comment (mo271) [inline Mathlib/Data/List/Basic.lean:775]:
```suggestion
theorem head_empty : List.head! [] = 0 := rfl
```

File: Mathlib/Data/List/Basic.lean [hunk 4]
```diff
@@ -771,6 +771,9 @@ theorem getLast?_append {l₁ l₂ : List α} {x : α} (h : x ∈ l₂.getLast?)
 
 /-! ### head(!?) and tail -/
 
+@[simp]
+theorem head_empty : List.head! [] = 0 := rfl
```
Comment (adomani) [inline Mathlib/Data/List/Basic.lean:775]:
```suggestion
theorem head_nil : List.head! [] = 0 := rfl
```
Sorry, I know that I was the one who named these lemmas, but I think that `nil` is the standard name, not `head`.

File: Mathlib/Data/Nat/Digits.lean [hunk 5]
```diff
@@ -637,6 +637,22 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
   ofDigits_modEq b k L
 #align nat.of_digits_mod Nat.ofDigits_mod
 
+@[simp]
+theorem ofDigits_empty (b : ℕ) : ofDigits b [] % b = 0 := rfl
```
Comment (adomani) [inline Mathlib/Data/Nat/Digits.lean:641]:
```suggestion
theorem ofDigits_nil (b : ℕ) : ofDigits b [] % b = 0 := rfl
```
Sorry, I know that I was the one who named these lemmas, but I think that `nil` is the standard name, not `head`.

File: Mathlib/Data/List/Basic.lean [hunk 6]
```diff
@@ -771,6 +771,9 @@ theorem getLast?_append {l₁ l₂ : List α} {x : α} (h : x ∈ l₂.getLast?)
 
 /-! ### head(!?) and tail -/
 
+@[simp]
+theorem head_nil : List.head! [] = 0 := rfl
```
Comment (jcommelin) [inline Mathlib/Data/List/Basic.lean:775]:
```suggestion
theorem head!_nil : List.head! [] = 0 := rfl
```

File: Mathlib/Data/Nat/Digits.lean [hunk 7]
```diff
@@ -637,6 +637,22 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
   ofDigits_modEq b k L
 #align nat.of_digits_mod Nat.ofDigits_mod
 
+@[simp]
+theorem ofDigits_nil (b : ℕ) : ofDigits b [] % b = 0 := rfl
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Digits.lean:641]: Isn't this also true without the `% b`?
```suggestion
theorem ofDigits_nil (b : ℕ) : ofDigits b [] = 0 := rfl
```
Also, I think this lemma could/should be placed almost directly after the defn of `ofDigits`.

File: Mathlib/Data/Nat/Digits.lean [hunk 8]
```diff
@@ -637,6 +637,22 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
...
+
+theorem ofDigits_mod_eq_head (b : ℕ) (l : List ℕ) : (Nat.ofDigits b l) % b = l.head! %b := by
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Digits.lean:643]:
```suggestion
theorem ofDigits_mod_eq_head! (b : ℕ) (l : List ℕ) : (Nat.ofDigits b l) % b = l.head! %b := by
```

File: Mathlib/Data/Nat/Digits.lean [hunk 9]
```diff
@@ -637,6 +637,22 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
...
+  induction l <;> simp [Nat.ofDigits, Int.ModEq]
+
+theorem digits_head {b n : ℕ} (h : b ≠ 1) : (Nat.digits b n).head! = n % b := by
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Digits.lean:646]:
```suggestion
theorem digits_head! {b n : ℕ} (h : b ≠ 1) : (Nat.digits b n).head! = n % b := by
```

File: Mathlib/Data/Nat/Digits.lean (hunk 7 above)
Comment (mo271) [reply Mathlib/Data/Nat/Digits.lean]: moved it, and also made argument `b` implicit.

File: Mathlib/Data/List/Basic.lean [hunk 10]
```diff
@@ -771,6 +771,9 @@ theorem getLast?_append {l₁ l₂ : List α} {x : α} (h : x ∈ l₂.getLast?)
 
 /-! ### head(!?) and tail -/
 
+@[simp]
+theorem head!_nil : List.head! [] = 0 := rfl
```
Comment (alexjbest) [inline Mathlib/Data/List/Basic.lean:775]: Do we have a good way of making this more polymorphic? I guess we don't have a type class for `default = 0`, but does simp already turn the default Nat into 0? If so we could generalise this

Comment (YaelDillies) [reply Mathlib/Data/List/Basic.lean:775]: We have `@[simp] Int.default_eq_zero`, but no `Nat.default_eq_zero`. I agree we should generalise
```suggestion
theorem head!_nil : ([] : List α).head! = default := rfl
```

File: Mathlib/Data/Nat/Digits.lean [hunk 11]
```diff
@@ -637,6 +640,19 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
   ofDigits_modEq b k L
 #align nat.of_digits_mod Nat.ofDigits_mod
 
+theorem ofDigits_mod_eq_head! (b : ℕ) (l : List ℕ) : (Nat.ofDigits b l) % b = l.head! %b := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Digits.lean:643]:
```suggestion
theorem ofDigits_mod_eq_head! (b : ℕ) (l : List ℕ) : ofDigits b l % b = l.head! %b := by
```

File: Mathlib/Data/Nat/Digits.lean [hunk 12]
```diff
@@ -637,6 +640,19 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
...
+  induction l <;> simp [Nat.ofDigits, Int.ModEq]
+
+theorem digits_head! {b n : ℕ} (h : b ≠ 1) : (Nat.digits b n).head! = n % b := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/Digits.lean:646]:
```suggestion
theorem head!_digits {b n : ℕ} (h : b ≠ 1) : (Nat.digits b n).head! = n % b := by
```

File: Mathlib/Data/Nat/Digits.lean [hunk 13]
```diff
@@ -633,6 +636,22 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
   ofDigits_modEq b k L
 #align nat.of_digits_mod Nat.ofDigits_mod
 
+theorem ofDigits_mod_eq_head! (b : ℕ) (l : List ℕ) : ofDigits b l % b = l.head! %b := by
```
Comment (urkud) [inline Mathlib/Data/Nat/Digits.lean:639]: Do we have `Nat.ModEq` available in this file?

File: Mathlib/Data/Nat/Digits.lean [hunk 14]
```diff
@@ -633,6 +636,22 @@ theorem ofDigits_mod (b k : ℕ) (L : List ℕ) : ofDigits b L % k = ofDigits (b
...
+  induction l <;> simp [Nat.ofDigits, Int.ModEq]
```
Comment (urkud) [inline Mathlib/Data/Nat/Digits.lean:640]: What's the goal after `simp`? Why do you need an extra `rfl`?

File: Mathlib/Data/Nat/Digits.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Digits.lean:640]: If we do not, then we should fix the import tree.

File: Mathlib/Data/Nat/Digits.lean (hunk 14 above)
Comment (mo271) [reply Mathlib/Data/Nat/Digits.lean:641]: The goal is 
```
default = 0
```
at that point. Should this be a simp lemma somehow?

File: Mathlib/Data/Nat/Digits.lean (hunk 13 above)
Comment (mo271) [reply Mathlib/Data/Nat/Digits.lean]: yes, should we use it somehow?

File: Mathlib/Data/Nat/Digits.lean (hunk 14 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/Digits.lean:641]: `Nat.default_eq` or something?

Comment (mo271) [reply Mathlib/Data/Nat/Digits.lean:641]: I added default_eq to `Mathlib/Init/Data/Nat/Basic.lean`, because I didn't find a better place.
This lead to the removal of `rfl` at other places too.

File: Mathlib/Init/Data/Nat/Basic.lean [hunk 15]
```diff
@@ -13,6 +13,8 @@ set_option linter.deprecated false
 
 theorem add_one_pos (n : ℕ) : 0 < n + 1 := succ_pos n
 
+@[simp] theorem default_eq : default = 0 := rfl
```
Comment (YaelDillies) [inline Mathlib/Init/Data/Nat/Basic.lean:16]: Sorry, I was suggesting the name of an existing lemma but apparently said lemma doesn't exist!
```suggestion
@[simp] theorem default_eq_zero : default = 0 := rfl
```
Can you also move this to `Data.Nat.Defs`? Nothing more should be going under `Init`

Comment (mo271) [reply Mathlib/Init/Data/Nat/Basic.lean]: Done. In `Data.Nat.Defs` I wasn't quite sure where to put it, because it didn't quite fit under any of the sections, so I put it near the top. Happy to move it around if we find a better place for it.

File: Mathlib/Data/Nat/Digits.lean (hunk 14 above)
Comment (mo271) [reply Mathlib/Data/Nat/Digits.lean:641]: @YaelDillies do you think it makes sense to factor out adding `Nat.default_eq` to a different pull request to make this one easier to review?

Comment (YaelDillies) [reply Mathlib/Data/Nat/Digits.lean:641]: No, it's fine like that

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Comment by semorrison** [comment]
bors merge
